US07524847B2
2-(3-Benzyl-2-oxo-4-piperazin-1-yl-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile
2-(3-benzyl-4-chloro-2-oxo-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile (0.364 g) and piperazine-1-carboxylic acid t-butyl ester (0.543 g) were heated at 170° C. for 12 hours. The residue was cooled, and then purified by silica gel chromatography using amine-treated silica.

reactant | 2-(3-benzyl-4-chloro-2-oxo-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile | 0.364 g | C(C1=CC=CC=C1)N1C(N(C2=C1C(=NC=C2)Cl)CC2=C(C#N)C=CC=C2)=O | C21H15ClN4O
reactant | piperazine-1-carboxylic acid t-butyl ester | 0.543 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 2-(3-Benzyl-2-oxo-4-piperazin-1-yl-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile | C(C1=CC=CC=C1)N1C(N(C2=C1C(=NC=C2)N2CCNCC2)CC2=C(C#N)C=CC=C2)=O | C25H24N6O
